US04761415
A solution of 3-fluorobenzylamine (6.26 g., 0.05 mole) in ether (10 ml.) was added dropwise to a solution of dicyclohexylcarbodiimide (10.3 g., 0.05 mole) and carbon disulfide (20 ml., 0.333 mole) in ether (60 ml.) at -5 °to -10° C. and the mixture was stirred for 17 hours at 25° C. The mixture was filtered, and the solvent was removed under vacuum. The resulting oil was dissolved in hexane-ethyl acetate (19:1), filtered and the solvent removed under vacuum. The oil was then dissolved in hexane-ethyl acetate (9:1) and purified by flash chromatography (silica) to give 3-fluorobenzylisothiocyanate as an oil (8.14 g., 97%).

reactant | 3-fluorobenzylamine | 0.05 mole, 6.26 g | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | dicyclohexylcarbodiimide | 0.05 mole, 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | carbon disulfide | 0.333 mole, 20 ml | C(=S)=S | CS2
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 3-fluorobenzylisothiocyanate | FC=1C=C(CN=C=S)C=CC1 | C8H6FNS
